US07074777B2
(3) 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androsta-5,7-diene
After adding 1,3-dimethyl-2-imidazolidinone (10 ml) to 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione adduct (0.45 g), the mixture was heated to 140° C. and reaction was proceeded for 2 hours. The reaction mixture was cooled and extracted with hexane. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent. The resulting residue was purified by column chromatography (hexane:ethyl acetate=40:1) to give the titled compound (0.18 g).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione | 0.45 g | C1(=CC=CC=C1)N1C(N=NC1=O)=O.[Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCCC(CC)(O[Si](CC)(CC)CC)CC)O[Si](C)(C)C(C)(C)C
solvent | 1,3-dimethyl-2-imidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androsta-5,7-diene | 0.18 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCCC(CC)(O[Si](CC)(CC)CC)CC)O[Si](C)(C)C(C)(C)C | C46H88O4Si3
